US07759379B2
3-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione
230 mg 3-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione were dissolved in 5 ml water and 5 ml of an aqueous 2 N solution of hydrochloric acid in a process vial. After sealing with a teflon septum the vial was placed in the microwave cavity and the reaction mixture was stirred for 15 minutes at 120° C. by microwave-assisted heating (Emrys Optimizer, Personal Chemistry). The solvent was removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoroacetic acid). Lyophilization of the solution yielded a white solid.

reactant | 3-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 230 mg | C(C)(=O)N1CC(C2=CC=C(C=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)(C)C | C27H28N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 3-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C | C25H26N4O2
